US05108994
9-[2-(Phosphonomethylthio)ethoxy)adenine
A solution of 9-[2-(diethoxyphosphorylmethylthio)-ethoxy]adenine (0.1 g, 0.27 mmol) in dry dichloromethane at room temperature was treated with bromotrimethylsilane (0.46 g, 30 mmol) and allowed to stand for 3 hours. The solvent was evaporated under reduced pressure and the residue was dissolved in methanol and allowed to stand for 5 minutes. The solvent was removed in vacuo and the residue was crystallised from water to give the title compound (0.06 g, 71%) as colourless crystals, m.p. 211°-13° C.; υmax (KBr) 3060, 2960, 1695, 1600, 1555, 1470, 1450, 1400, 1350 and 1300 cm-1 ; 6H [(CD3)2SO] 2.7 (2H, d J 13Hz. PCH2S), 3.1 (2H, t J 6.5Hz, CH2O), 4.6 (2H, t J 6.5Hz CH2S), 7.4 (2H, br.s, exchangeable with D2O, NH2), 8.15 (1 H, s, 2-H), 8.4 (1H, s, 8-H). (Found: C, 31.58; H, 3.92; N, 23.26%. C8H12N5O4PS requires C, 31.47; H, 3.96; N, 22.95%).

reactant | 9-[2-(diethoxyphosphorylmethylthio)-ethoxy]adenine | 0.27 mmol, 0.1 g | C(C)OP(=O)(OCC)CSCCON1C2=NC=NC(=C2N=C1)N | C12H20N5O4PS
reactant | bromotrimethylsilane | 30 mmol, 0.46 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9-[2-(Phosphonomethylthio)ethoxy)adenine | 0.06 g, 71% | P(=O)(O)(O)CSCCON1C2=NC=NC(=C2N=C1)N | C8H12N5O4PS
